*  Sonnet Data File
*  From: emgraph Version : 16.56
*  From Project: Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness
*  Data is De-embedded 
*  Data File Written: 03/24/2020 17:01:58
* < HDATE 03/06/2020 17:23:53
* < MDATE 03/06/2020 17:24:47
* < PARAMS
* < ILD_thickness = 0.1
* < ILD_dielectric_const = 3.6
* < END PARAMS
*  Spice Data
* Limits: C>0.01pF L<100.0nH R<1000.0Ohms K>0.01
    *  Analysis frequencies: 100.0, 110.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param02_0 1 2 3 4 REF
C_C1 1 REF 0.6225915672689pf
C_C2 1 2 20.558021658672pf
C_C3 1 3 0.0285861389865pf
C_C4 1 4 0.2840130826458pf
C_C5 2 REF 0.9059752354119pf
C_C6 2 3 0.1421617093537pf
C_C7 3 REF 0.9757105374006pf
C_C8 3 4 4.9300628727652pf
C_C9 4 REF 0.9773341742677pf
L_L1 3 5 1.2917946715557nh
R_RL1 5 4 -1.123940774e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param02_0

    *  Analysis frequencies: 110.0, 120.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param02_1 1 2 3 4 REF
C_C1 1 REF 0.5696547911015pf
C_C2 1 2 21.117718019664pf
C_C3 1 3 0.0259933583812pf
C_C4 1 4 0.2899751035532pf
C_C5 2 REF 0.8604736492796pf
C_C6 2 3 0.1431087149571pf
C_C7 3 REF 0.9773787337272pf
C_C8 3 4 3.5931655502023pf
C_C9 4 REF 0.9767039512339pf
L_L1 3 5 1.2928612061288nh
R_RL1 5 4 3.505281984e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param02_1

    *  Analysis frequencies: 120.0, 130.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param02_2 1 2 3 4 REF
C_C1 1 REF 0.5224097740182pf
C_C2 1 2 21.732758263114pf
C_C3 1 3 0.0233799592406pf
C_C4 1 4 0.2966001537729pf
C_C5 2 REF 0.8218220806738pf
C_C6 2 3 0.1442936949932pf
C_C7 3 REF 0.9788325523636pf
C_C8 3 4 2.6624667304299pf
C_C9 4 REF 0.9763762664223pf
L_L1 3 5 1.293746144259nh
R_RL1 5 4 1.8054690372e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param02_2

    *  Analysis frequencies: 130.0, 145.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param02_3 1 2 3 4 REF
C_C1 1 REF 0.4729257344358pf
C_C2 1 2 22.573348712953pf
C_C3 1 3 0.0200716446208pf
C_C4 1 4 0.3058178706443pf
C_C5 2 REF 0.7846923207154pf
C_C6 2 3 0.146123560604pf
C_C7 3 REF 0.9803467804174pf
C_C8 3 4 1.8648478351688pf
C_C9 4 REF 0.976240827956pf
L_L1 3 5 1.2946373862418nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param02_3

    *  Analysis frequencies: 145.0, 160.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param02_4 1 2 3 4 REF
C_C1 1 REF 0.4268183217485pf
C_C2 1 2 23.659228456294pf
C_C3 1 3 0.016070763606pf
C_C4 1 4 0.3179566478142pf
C_C5 2 REF 0.7552668267636pf
C_C6 2 3 0.1487656783976pf
C_C7 3 REF 0.9817529065031pf
C_C8 3 4 1.229038712778pf
C_C9 4 REF 0.9762950357658pf
L_L1 3 5 1.2955224760723nh
R_RL1 5 4 -2.043198128e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param02_4

    *  Analysis frequencies: 160.0, 175.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param02_5 1 2 3 4 REF
C_C1 1 REF 0.3928023360347pf
C_C2 1 2 24.840368375121pf
C_C3 1 3 0.0119405898385pf
C_C4 1 4 0.331379353594pf
C_C5 2 REF 0.7400025763242pf
C_C6 2 3 0.151934456656pf
C_C7 3 REF 0.9827666637433pf
C_C8 3 4 0.8113008535943pf
C_C9 4 REF 0.9764731765789pf
L_L1 3 5 1.2962313675054nh
R_RL1 5 4 -3.662468316e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param02_5

    *  Analysis frequencies: 175.0, 190.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param02_6 1 2 3 4 REF
C_C1 1 REF 0.3679101592167pf
C_C2 1 2 26.12564795284pf
C_C3 1 4 0.3461330575327pf
C_C4 2 REF 0.7358676509077pf
C_C5 2 3 0.1556533972189pf
C_C6 3 REF 0.9834559831804pf
C_C7 3 4 0.5274760573023pf
C_C8 4 REF 0.976704338083pf
L_L1 3 5 1.296808085686nh
R_RL1 5 4 -4.932561797e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param02_6

    *  Analysis frequencies: 190.0, 210.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param02_7 1 2 3 4 REF
C_C1 1 REF 0.3468123373181pf
C_C2 1 2 27.787980159085pf
C_C3 1 4 0.3652961197265pf
C_C4 2 REF 0.7417314164794pf
C_C5 2 3 0.1607825670829pf
C_C6 3 REF 0.9839328141874pf
C_C7 3 4 0.3032673220778pf
C_C8 4 REF 0.9769956343929pf
L_L1 3 5 1.297345521372nh
R_RL1 5 4 -5.967740162e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param02_7

    *  Analysis frequencies: 210.0, 230.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param02_8 1 2 3 4 REF
C_C1 1 REF 0.3286841029226pf
C_C2 1 2 29.913374267068pf
C_C3 1 4 0.3897575547625pf
C_C4 2 REF 0.7578203110472pf
C_C5 2 3 0.1676940508628pf
C_C6 3 REF 0.9841682349868pf
C_C7 3 4 0.1327599473378pf
C_C8 4 REF 0.9773244671776pf
L_L1 1 5 96.987923155637nh
R_RL1 5 2 7.6642608548223
L_L2 3 6 1.2978279101158nh
R_RL2 6 4 -6.649925081e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param02_8

    *  Analysis frequencies: 230.0, 255.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param02_9 1 2 3 4 REF
C_C1 1 REF 0.3111714169395pf
C_C2 1 2 32.703243061322pf
C_C3 1 4 0.4216335591997pf
C_C4 2 REF 0.7844176694853pf
C_C5 2 3 0.1771743810312pf
C_C6 3 REF 0.9841506371414pf
C_C7 4 REF 0.9776791775462pf
L_L1 1 5 61.689778845359nh
R_RL1 5 2 4.135653147292
L_L2 3 6 1.2982209555388nh
R_RL2 6 4 -6.787030634e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param02_9

    *  Analysis frequencies: 255.0, 280.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param02_10 1 2 3 4 REF
C_C1 1 REF 0.2904639845967pf
C_C2 1 2 36.403031320299pf
C_C3 1 4 0.4634522120374pf
C_C4 2 REF 0.8208488123576pf
C_C5 2 3 0.1901476988834pf
C_C6 3 REF 0.983912494974pf
C_C7 4 REF 0.9780551427079pf
L_L1 1 5 38.70883138601nh
R_RL1 5 2 1.7477403232879
L_L2 3 6 1.2981204484828nh
R_RL2 6 4 -6.284951269e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param02_10

    *  Analysis frequencies: 280.0, 310.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param02_11 1 2 3 4 REF
C_C1 1 REF 0.2607025486338pf
C_C2 1 2 41.559749041347pf
C_C3 1 4 0.5210186250692pf
C_C4 2 REF 0.8687624719733pf
C_C5 2 3 0.2086165391878pf
C_C6 3 REF 0.9834780163176pf
C_C7 4 REF 0.978471142915pf
L_L1 1 5 23.784123613441nh
R_RL1 5 2 0.5488634275516
L_L2 3 6 1.2978317136271nh
R_RL2 6 4 -5.08148587e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param02_11

    *  Analysis frequencies: 310.0, 340.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param02_12 1 2 3 4 REF
C_C1 1 REF 0.2139658276303pf
C_C2 1 2 49.02640490614pf
C_C3 1 4 0.6034910138196pf
C_C4 2 REF 0.93230250761pf
C_C5 2 3 0.2356395989304pf
C_C6 3 REF 0.982876202468pf
C_C7 4 REF 0.9789768810821pf
L_L1 1 5 14.155533620462nh
R_RL1 5 2 0.3554825183564
L_L2 3 6 1.2973842797262nh
R_RL2 6 4 -3.205826215e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param02_12

    *  Analysis frequencies: 340.0, 375.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param02_13 1 2 3 4 REF
C_C1 1 REF 0.1344352412235pf
C_C2 1 2 60.827110954943pf
C_C3 1 4 0.7328616950918pf
C_C4 2 REF 1.0249219104692pf
C_C5 2 3 0.2784594039982pf
C_C6 3 REF 0.9820902552856pf
C_C7 4 REF 0.9797135777493pf
R_R1 1 2 589.48777462774
L_L1 1 5 8.3439160155443nh
R_RL1 5 2 0.678269115353
L_L2 3 6 1.296633963527nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param02_13

    *  Analysis frequencies: 375.0, 410.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param02_14 1 2 3 4 REF
C_C1 1 2 81.177626017665pf
C_C2 1 4 0.955180100112pf
C_C3 2 REF 1.1769933451626pf
C_C4 2 3 0.3521418578692pf
C_C5 3 REF 0.981044056388pf
C_C6 4 REF 0.9810110286528pf
R_R1 1 2 272.02885883424
L_L1 1 5 4.5027534646348nh
R_RL1 5 2 -0.359795750959
L_L2 3 6 1.295436168446nh
R_RL2 6 4 1.7700027456e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param02_14

    *  Analysis frequencies: 410.0, 450.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param02_15 1 2 3 4 REF
C_C1 1 2 123.01746100786pf
C_C2 1 4 1.4119448885189pf
C_C3 2 REF 1.48319112008pf
C_C4 2 3 0.5030911617641pf
C_C5 3 REF 0.9794208737614pf
C_C6 4 REF 0.9838984864862pf
R_R1 1 2 129.91062663253
L_L1 1 5 1.9371346195006nh
R_RL1 5 2 -0.166035301713
L_L2 1 6 80.619871982041nh
R_RL2 6 3 -0.172373535124
L_L3 1 7 79.875956760794nh
R_RL3 7 4 -0.173069337751
L_L4 2 8 80.675537766026nh
R_RL4 8 3 0.0096351804413
L_L5 2 9 79.934228310241nh
R_RL5 9 4 0.0094920957448
L_L6 3 10 1.2930477953961nh
R_RL6 10 4 4.2885044415e-5
Kn_K1 L_L1 L_L2 0.0752776546917
Kn_K2 L_L1 L_L3 0.0755226458598
Kn_K3 L_L1 L_L4 -0.079704523717
Kn_K4 L_L1 L_L5 -0.080177963341
Kn_K5 L_L2 L_L3 0.9919540737915
Kn_K6 L_L2 L_L4 0.9879902029929
Kn_K7 L_L2 L_L5 0.9798737396428
Kn_K8 L_L2 L_L6 -0.099752733899
Kn_K9 L_L3 L_L4 0.9799090901898
Kn_K10 L_L3 L_L5 0.9878785940731
Kn_K11 L_L3 L_L6 0.0270166741748
Kn_K12 L_L4 L_L5 0.9919596997027
Kn_K13 L_L4 L_L6 -0.099590749777
Kn_K14 L_L5 L_L6 0.0271349787331
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param02_15

    *  Analysis frequencies: 450.0, 495.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param02_16 1 2 3 4 REF
C_C1 1 2 249.51035042856pf
C_C2 1 4 2.7938453805125pf
C_C3 2 REF 2.405059447628pf
C_C4 2 3 0.9582839739859pf
C_C5 3 REF 0.9755551535866pf
C_C6 4 REF 0.993394910937pf
R_R1 1 2 47.677197131819
L_L1 1 5 83.037117493413nh
R_RL1 5 REF -4.074531122461
L_L2 1 6 0.6510424783257nh
R_RL2 6 2 -0.06356495325
L_L3 1 7 31.14281492274nh
R_RL3 7 3 -0.051765881387
L_L4 1 8 30.447860814821nh
R_RL4 8 4 -0.052565384136
L_L5 2 9 82.48018281862nh
R_RL5 9 REF -4.163635915985
L_L6 2 10 31.232930021756nh
R_RL6 10 3 0.0013278823247
L_L7 2 11 30.541628651571nh
R_RL7 11 4 0.0013107141482
L_L8 3 12 1.2861687125659nh
R_RL8 12 4 6.1275581058e-5
Kn_K1 L_L1 L_L2 0.0821462853453
Kn_K2 L_L1 L_L5 0.9960722585231
Kn_K3 L_L2 L_L3 0.0622863738098
Kn_K4 L_L2 L_L4 0.0625829786793
Kn_K5 L_L2 L_L5 1.0
Kn_K6 L_L2 L_L6 -0.082180642144
Kn_K7 L_L2 L_L7 -0.083515085094
Kn_K8 L_L3 L_L4 0.9791798113557
Kn_K9 L_L3 L_L5 1.0
Kn_K10 L_L3 L_L6 0.9895636025996
Kn_K11 L_L3 L_L7 0.9685816039627
Kn_K12 L_L3 L_L8 -0.156514112238
Kn_K13 L_L4 L_L5 1.0
Kn_K14 L_L4 L_L6 0.968730648523
Kn_K15 L_L4 L_L7 0.9893265024514
Kn_K16 L_L4 L_L8 0.047237596807
Kn_K17 L_L6 L_L7 0.9792409554772
Kn_K18 L_L6 L_L8 -0.155999997598
Kn_K19 L_L7 L_L8 0.0474564300624
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param02_16

    *  Analysis frequencies: 495.0, 545.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param02_17 1 2 3 4 REF
C_C1 1 2 1368.6047581429pf
C_C2 1 4 15.028373628121pf
C_C3 2 REF 10.564535843515pf
C_C4 2 3 4.9825563481386pf
C_C5 3 REF 0.9456669483634pf
C_C6 4 REF 1.0819210182758pf
R_R1 1 REF -496.5833809428
R_R2 1 2 4.1994460415239
R_R3 1 4 361.68515506571
R_R4 2 REF 483.82690554372
R_R5 2 4 -361.5782374413
L_L1 1 5 9.0712281324644nh
R_RL1 5 REF -0.064174006419
L_L2 1 6 0.0802912336095nh
R_RL2 6 2 -0.014442740957
L_L3 1 7 5.0402535447252nh
R_RL3 7 3 -8.694629206e-3
L_L4 1 8 4.4068628010772nh
R_RL4 8 4 -9.875433152e-3
L_L5 2 9 9.0202633042422nh
R_RL5 9 REF -0.082036385462
L_L6 2 10 5.0588171282708nh
R_RL6 10 3 -5.66450943e-4
L_L7 2 11 4.4301413048132nh
R_RL7 11 4 -3.403245061e-4
L_L8 3 12 14.020195718471nh
R_RL8 12 REF -0.075664457688
L_L9 3 13 1.2277456522172nh
R_RL9 13 4 3.2959067664e-5
L_L10 4 14 13.379709855357nh
R_RL10 14 REF -0.077175214819
Kn_K1 L_L1 L_L2 0.0768992783335
Kn_K2 L_L1 L_L5 0.9955658842972
Kn_K3 L_L1 L_L8 0.800322976482
Kn_K4 L_L1 L_L10 0.8189327511679
Kn_K5 L_L2 L_L3 0.0485165031273
Kn_K6 L_L2 L_L4 0.0479228911115
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.077554907832
Kn_K9 L_L2 L_L7 -0.086828045374
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L10 1.0
Kn_K12 L_L3 L_L4 0.8720022692713
Kn_K13 L_L3 L_L5 1.0
Kn_K14 L_L3 L_L6 0.9920513173434
Kn_K15 L_L3 L_L7 0.863176724101
Kn_K16 L_L3 L_L8 1.0
Kn_K17 L_L3 L_L9 -0.374082862033
Kn_K18 L_L3 L_L10 1.0
Kn_K19 L_L4 L_L5 1.0
Kn_K20 L_L4 L_L6 0.8643634341221
Kn_K21 L_L4 L_L7 0.9909176400898
Kn_K22 L_L4 L_L8 1.0
Kn_K23 L_L4 L_L9 0.1277605847134
Kn_K24 L_L4 L_L10 1.0
Kn_K25 L_L5 L_L8 0.799489387278
Kn_K26 L_L5 L_L10 0.8178639438999
Kn_K27 L_L6 L_L7 0.8725303312843
Kn_K28 L_L6 L_L8 1.0
Kn_K29 L_L6 L_L9 -0.37244992879
Kn_K30 L_L6 L_L10 1.0
Kn_K31 L_L7 L_L8 1.0
Kn_K32 L_L7 L_L9 0.1284353164392
Kn_K33 L_L7 L_L10 1.0
Kn_K34 L_L8 L_L9 0.2251487072558
Kn_K35 L_L8 L_L10 0.9554526816142
Kn_K36 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param02_17

    *  Analysis frequencies: 545.0, 600.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param02_18 1 2 3 4 REF
C_C1 1 REF 17.755581474925pf
C_C2 1 3 8.5695578510301pf
C_C3 2 4 25.846731383971pf
C_C4 3 REF 1.0427642073988pf
C_C5 4 REF 0.7844025541393pf
R_R1 1 REF 507.68734412258
R_R2 1 2 -4.831816794825
R_R3 1 4 -401.7070677971
R_R4 2 REF -521.7716033414
R_R5 2 4 401.96304910726
L_L1 1 5 4.272289747225nh
R_RL1 5 REF -0.012406366005
L_L2 1 6 0.3949814541626nh
R_RL2 6 2 0.5285072296565
L_L3 1 7 2.8922571853376nh
R_RL3 7 3 0.2499424335702
L_L4 1 8 2.3610018216487nh
R_RL4 8 4 0.3326597258352
L_L5 2 9 4.6379086850007nh
R_RL5 9 REF 0.581862012887
L_L6 2 10 2.7742245067072nh
R_RL6 10 3 0.0515185953586
L_L7 2 11 2.1709814446628nh
R_RL7 11 4 0.0225171523073
L_L8 3 12 7.1665308761875nh
R_RL8 12 REF 0.2824076399897
L_L9 3 13 1.1618262150108nh
R_RL9 13 4 0.0059566382408
L_L10 4 14 6.6446193089623nh
R_RL10 14 REF 0.3719535773414
Kn_K1 L_L1 L_L2 0.011301720817
Kn_K2 L_L1 L_L5 0.956476439835
Kn_K3 L_L1 L_L8 0.7722833775798
Kn_K4 L_L1 L_L10 0.8029170311832
Kn_K5 L_L2 L_L3 0.2399896582378
Kn_K6 L_L2 L_L4 0.302894032113
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.132284907986
Kn_K9 L_L2 L_L7 -0.110668746581
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L9 0.0531336137773
Kn_K12 L_L2 L_L10 1.0
Kn_K13 L_L3 L_L4 0.7828504589821
Kn_K14 L_L3 L_L5 1.0
Kn_K15 L_L3 L_L6 0.9304970026948
Kn_K16 L_L3 L_L7 0.7140270157646
Kn_K17 L_L3 L_L8 0.9386173601528
Kn_K18 L_L3 L_L9 -0.461805231768
Kn_K19 L_L3 L_L10 0.9758488737549
Kn_K20 L_L4 L_L5 1.0
Kn_K21 L_L4 L_L6 0.6850406351773
Kn_K22 L_L4 L_L7 0.9136492427479
Kn_K23 L_L4 L_L8 1.0
Kn_K24 L_L4 L_L9 0.1903641433163
Kn_K25 L_L4 L_L10 1.0
Kn_K26 L_L5 L_L6 0.0342350181604
Kn_K27 L_L5 L_L7 0.0258845893016
Kn_K28 L_L5 L_L8 0.7831636332825
Kn_K29 L_L5 L_L9 -0.017518506401
Kn_K30 L_L5 L_L10 0.820665079246
Kn_K31 L_L6 L_L7 0.7708166376331
Kn_K32 L_L6 L_L8 1.0
Kn_K33 L_L6 L_L9 -0.491575661498
Kn_K34 L_L6 L_L10 1.0
Kn_K35 L_L7 L_L8 1.0
Kn_K36 L_L7 L_L9 0.1758568120309
Kn_K37 L_L7 L_L10 1.0
Kn_K38 L_L8 L_L9 0.2917557256714
Kn_K39 L_L8 L_L10 0.9165323109204
Kn_K40 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param02_18

    *  Analysis frequencies: 600.0, 660.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param02_19 1 2 3 4 REF
C_C1 1 2 418.40005460352pf
C_C2 1 4 4.6341167175259pf
C_C3 2 REF 3.6372588583608pf
C_C4 2 3 1.5636507019252pf
C_C5 3 REF 0.969787484917pf
C_C6 4 REF 1.0049012584298pf
R_R1 1 2 -68.55639249874
L_L1 1 5 23.574461741921nh
R_RL1 5 REF -0.276706037266
L_L2 1 6 0.1236191529843nh
R_RL2 6 2 0.0035374321506
L_L3 1 7 10.647069146223nh
R_RL3 7 3 4.3480812696e-5
L_L4 1 8 9.976898449131nh
R_RL4 8 4 1.2255071596e-4
L_L5 2 9 23.356432194307nh
R_RL5 9 REF -0.27735934861
L_L6 2 10 10.721373669629nh
R_RL6 10 3 0.0012440198028
L_L7 2 11 10.058881477917nh
R_RL7 11 4 0.0010751915849
L_L8 3 12 33.995368737222nh
R_RL8 12 REF -0.280098134778
L_L9 3 13 1.2631427914047nh
R_RL9 13 4 4.152827035e-5
L_L10 4 14 33.31651863439nh
R_RL10 14 REF -0.280654479967
Kn_K1 L_L1 L_L2 0.1000658763257
Kn_K2 L_L1 L_L5 0.9973766955553
Kn_K3 L_L1 L_L8 0.8287485760317
Kn_K4 L_L1 L_L10 0.8369943501232
Kn_K5 L_L2 L_L3 0.0214925457858
Kn_K6 L_L2 L_L4 0.0187456127921
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.085960643019
Kn_K9 L_L2 L_L7 -0.092189189327
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L10 1.0
Kn_K12 L_L3 L_L4 0.9392496593865
Kn_K13 L_L3 L_L5 1.0
Kn_K14 L_L3 L_L6 0.9942208840093
Kn_K15 L_L3 L_L7 0.9330316131359
Kn_K16 L_L3 L_L8 1.0
Kn_K17 L_L3 L_L9 -0.263591270907
Kn_K18 L_L3 L_L10 1.0
Kn_K19 L_L4 L_L5 1.0
Kn_K20 L_L4 L_L6 0.9339763864199
Kn_K21 L_L4 L_L7 0.9938384003085
Kn_K22 L_L4 L_L8 1.0
Kn_K23 L_L4 L_L9 0.0835180335328
Kn_K24 L_L4 L_L10 1.0
Kn_K25 L_L5 L_L8 0.8274204864107
Kn_K26 L_L5 L_L10 0.8355144470614
Kn_K27 L_L6 L_L7 0.9396919465007
Kn_K28 L_L6 L_L8 1.0
Kn_K29 L_L6 L_L9 -0.26163300613
Kn_K30 L_L6 L_L10 1.0
Kn_K31 L_L7 L_L8 1.0
Kn_K32 L_L7 L_L9 0.0842540623745
Kn_K33 L_L7 L_L10 1.0
Kn_K34 L_L8 L_L9 0.1481772528109
Kn_K35 L_L8 L_L10 0.9812843812451
Kn_K36 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param02_19

    *  Analysis frequencies: 660.0, 725.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param02_20 1 2 3 4 REF
C_C1 1 2 87.233928713126pf
C_C2 1 4 1.0107092885801pf
C_C3 2 REF 1.2264563217022pf
C_C4 2 3 0.3717103529982pf
C_C5 3 REF 0.9782905751633pf
C_C6 4 REF 0.9782452960241pf
R_R1 1 2 414.82792513549
L_L1 1 5 0.4632594901541nh
R_RL1 5 2 -0.0103024738
L_L2 1 6 47.392344820134nh
R_RL2 6 3 5.7492540872e-4
L_L3 1 7 46.597671484615nh
R_RL3 7 4 4.7482497828e-4
L_L4 2 8 47.824124619828nh
R_RL4 8 3 -2.216202191e-3
L_L5 2 9 47.037919049314nh
R_RL5 9 4 -2.083802186e-3
L_L6 3 10 1.2857493743618nh
R_RL6 10 4 1.0e-5
Kn_K1 L_L1 L_L4 -0.09507720962
Kn_K2 L_L1 L_L5 -0.096775481261
Kn_K3 L_L2 L_L3 0.9863556176158
Kn_K4 L_L2 L_L4 0.9951449025439
Kn_K5 L_L2 L_L5 0.981395542114
Kn_K6 L_L2 L_L6 -0.133256784972
Kn_K7 L_L3 L_L4 0.9816491344597
Kn_K8 L_L3 L_L5 0.9950635262481
Kn_K9 L_L3 L_L6 0.031721848008
Kn_K10 L_L4 L_L5 0.9864799942369
Kn_K11 L_L4 L_L6 -0.13211393743
Kn_K12 L_L5 L_L6 0.0321174731579
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param02_20

    *  Analysis frequencies: 725.0, 795.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param02_21 1 2 3 4 REF
C_C1 1 REF 0.3566502920127pf
C_C2 1 2 34.480710694547pf
C_C3 1 4 0.4343656246104pf
C_C4 2 REF 0.8497474340979pf
C_C5 2 3 0.1805587313614pf
C_C6 3 REF 0.9789534710754pf
C_C7 4 REF 0.9732314680188pf
R_R1 1 2 409.21374966086
L_L1 1 5 0.8507507889957nh
R_RL1 5 2 0.0372902263657
L_L2 3 6 1.2892143605757nh
R_RL2 6 4 -4.498510975e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param02_21

    *  Analysis frequencies: 795.0, 875.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param02_22 1 2 3 4 REF
C_C1 1 REF 0.4854571100197pf
C_C2 1 2 17.524801456673pf
C_C3 1 3 0.0640724575664pf
C_C4 1 4 0.2483947605447pf
C_C5 2 REF 0.7331874185811pf
C_C6 2 3 0.1173153433578pf
C_C7 3 REF 0.9783009900517pf
C_C8 4 REF 0.9705655817719pf
R_R1 1 2 918.13735092257
L_L1 1 5 1.217636421521nh
R_RL1 5 2 0.0110693807698
L_L2 3 6 1.2869849941191nh
R_RL2 6 4 -4.543552882e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param02_22

    *  Analysis frequencies: 875.0, 960.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param02_23 1 2 3 4 REF
C_C1 1 REF 0.5408499098103pf
C_C2 1 2 10.765074642526pf
C_C3 1 3 0.0963368823206pf
C_C4 1 4 0.1719074543439pf
C_C5 2 REF 0.6909036654558pf
C_C6 2 3 0.089205377608pf
C_C7 2 4 0.0251220776084pf
C_C8 3 REF 0.9772888130264pf
C_C9 4 REF 0.9686289512608pf
L_L1 1 5 1.6692322266408nh
R_RL1 5 2 0.0382965394398
L_L2 3 6 1.2843895246858nh
R_RL2 6 4 1.4712513064e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param02_23

    *  Analysis frequencies: 960.0, 1055.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param02_24 1 2 3 4 REF
C_C1 1 REF 0.5691332613936pf
C_C2 1 2 8.1807629441058pf
C_C3 1 3 0.1176804095231pf
C_C4 1 4 0.1385710718424pf
C_C5 2 REF 0.683128803647pf
C_C6 2 3 0.073126298174pf
C_C7 2 4 0.0639708160512pf
C_C8 3 REF 0.9757346147585pf
C_C9 4 REF 0.9664755988744pf
L_L1 1 5 1.8411186108761nh
R_RL1 5 2 0.0570540569242
L_L2 3 6 1.2810377802166nh
R_RL2 6 4 7.7473913734e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param02_24

    *  Analysis frequencies: 1055.0, 1160.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param02_25 1 2 3 4 REF
C_C1 1 REF 0.584092721141pf
C_C2 1 2 7.6115036069581pf
C_C3 1 3 0.1397031675939pf
C_C4 1 4 0.1223448163065pf
C_C5 2 REF 0.6938753812286pf
C_C6 2 3 0.057691291141pf
C_C7 2 4 0.0871238806217pf
C_C8 3 REF 0.9737551542928pf
C_C9 4 REF 0.9639318049488pf
L_L1 1 5 1.8758952927916nh
R_RL1 5 2 -6.067106512e-4
L_L2 3 6 1.2769242389322nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param02_25

    *  Analysis frequencies: 1160.0, 1200.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param02_26 1 2 3 4 REF
C_C1 1 REF 0.5869106984888pf
C_C2 1 2 8.0249835036059pf
C_C3 1 3 0.1583391951679pf
C_C4 1 4 0.1157099479488pf
C_C5 2 REF 0.7079915092434pf
C_C6 2 3 0.0440198326997pf
C_C7 2 4 0.0989768220675pf
C_C8 3 REF 0.9724439164594pf
C_C9 4 REF 0.9622142684655pf
L_L1 1 5 1.7908882187451nh
R_RL1 5 2 -0.019394208271
L_L2 3 6 1.275157887323nh
R_RL2 6 4 -1.386090321e-4
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param02_26

